US06307058B1
Butyl Maleurate
A mixture of 140 g of N-carbamylmaleimide (1 mole), 1.36 g of zinc chloride (0.01 moles) and 150 g of n-butanol (2 moles) was heated to reflux. After 4 hours, the mixture was poured into 400 mL of water and cooled to room temperature. The butyl maleurate was filtered, washed with water and dried to afford 200 g (93% yield). M.P.: 97°-90° C.; 1H NMR (CDCl3): δ10.6 (brs, 1H), 8.2 (brs, 1H), 6.3 (AB, 2H), 5.9 (brs, 1H), 4.2 (t, 2H), 1.6 (m, 2H), 1.4 (m, 2H), 0.9 (t, 3H); HPLC (20 to 40% CH3CN/H2O over 20 minutes, C8): Rt=9.4 minutes.

reactant | N-carbamylmaleimide | 1 mole, 140 g | C(N)(=O)N1C(C=CC1=O)=O | C5H4N2O3
reactant | n-butanol | 2 moles, 150 g | C(CCC)O | C4H10O
reactant | water | 400 mL | O | H2O
catalyst | zinc chloride | 0.01 moles, 1.36 g | [Cl-].[Zn+2].[Cl-]
solvent | CH3CN H2O | CC#N.O
product | Butyl Maleurate | 93% yield | C(\C=C/C(NC(N)=O)=O)(=O)OCCCC | C9H14N2O4
